US05112841
3) 3-(4-Methoxyphenyl)-5-chloroisoxazole
To 30 g of phosphorus oxychloride were added 7.4 g (39 mmol) of 3-(4-methoxyphenyl)isoxazol-5-one, followed by the dropwise addition of 4 g (40 mmol) of triethylamine. After completion of the dropwise addition, the reaction mixture was stirred at 120°-125° C. for 4 hours. The solvent was then distilled off under reduced pressure. Ice water (100 ml) was added to the residue, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and then dried. Purification by silica gel column chromatography (solvent: hexane/ethyl acetate=10/1) gave the title compound as colorless crystals.

reactant | phosphorus oxychloride | 30 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(4-methoxyphenyl)isoxazol-5-one | 39 mmol, 7.4 g | COC1=CC=C(C=C1)C=1NOC(C1)=O | C10H9NO3
reactant | triethylamine | 40 mmol, 4 g | C(C)N(CC)CC | C6H15N
product | 3-(4-Methoxyphenyl)-5-chloroisoxazole | COC1=CC=C(C=C1)C1=NOC(=C1)Cl | C10H8ClNO2
